US09085555B2
B. 2-(3-Acetyl-1H-indazol-1-yl)acetic acid
The title compound was prepared from tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate in a similar manner as described in step C of Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. MS: 219 [M+H]+; tR (HPLC conditions k): 2.78 min.

reactant | tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate | C(C)(=O)C1=NN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C15H18N2O3
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | 2-(3-Acetyl-1H-indazol-1-yl)acetic acid | C(C)(=O)C1=NN(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
